2106-08-31 10:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2106-8-31**] 05:23 AM
   Pt. readmitted to MICU early this AM for management of respiratory
   distress.
   67 yom COPD (advanced) admitted [**2106-8-29**] for fever, abdominal pain,
   elevated WBC
 diverticulosis; started antimicrobials with good
   response.  Transient need for MICU for COPD exacerbation, responded to
   iv pulse steroids, increased nebulizer Rx.  Transferred back to medical
   [**Hospital1 **] [**2106-8-29**], with usual COPD medications and CPAP prn.
   This AM, while ambulating by self, experienced significant dyspea and
   tachypnea upon ambulating to bathroom.  Exam revealed limited
   airmovement, and ABG= 728/66/150
 received iv solumedrol, acute
   nebulizer Rx and transferred back to MICU service this AM.
   Upon arrival to MICU, much improved.  Using CPAP as needed (chronic
   use).
   During ICU rounds this AM, up in bed, talkative.  States that breathing
   is near baseline.
   Excited, exchanging jokes with ICU team.
   Allergies:
   Levofloxacin
   Last dose of Antibiotics:
   Vancomycin - [**2106-8-29**] 06:39 AM
   Metronidazole - [**2106-8-29**] 08:09 AM
   Ceftriaxone - [**2106-8-29**] 10:11 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-8-31**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 94 (91 - 103) bpm
   BP: 164/15(57) {125/15(57) - 164/72(94)} mmHg
   RR: 23 (17 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.8 kg (admission): 89.8 kg
   Height: 68 Inch
                  Total In:
                  240 mL
   PO:
                  240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : prolonged, expiratory, diffuse, No(t) Diminished: , No(t)
   Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   210 K/uL
   123 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   12 mg/dL
   99 mEq/L
   137 mEq/L
   26.7 %
   14.4 K/uL
        [image002.jpg]
                             [**2106-8-29**]  05:41 AM
                             [**2106-8-29**]  06:11 AM
                             [**2106-8-29**]  03:00 PM
                             [**2106-8-31**]  05:20 AM
   WBC
   14.0
   14.4
   Hct
   31.8
   34.3
   26.7
   Plt
   224
   210
   Cr
   0.7
   0.5
   TCO2
   37
   Glucose
   90
   123
   Other labs: PT / PTT / INR:14.0/33.7/1.2, CK / CKMB / Troponin-T:99//,
   ALT / AST:13/19, Alk Phos / T Bili:64/0.8, Amylase / Lipase:67/19,
   Albumin:3.3 g/dL, LDH:168 IU/L, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:1.8
   mg/dL
   Assessment and Plan
   COPD exacerbation.
   COPD
 exacerbation, likely related to physical exertion.  Underlying
   severe COPD.  Currently improved.  Continue current medications, usual
   dose of steroids.  Use non-invasive ventilation as needed (chronic).
   DIVERTICULITIS
 Clinical response.  Continue antimicrobials.
   CAD
 No evidence for active disease.  Continue usual medications.
   FLUIDs
 euvolemic.  Monitor i/o.  Maintain balance.
   RENAL FUNCTION
 preserved.  Monitor UO, BUN, creatinine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-8-31**] 05:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2106-09-01 06:53:00 Physician Resident Progress Note
Chief Complaint: Transferred to ICU for respiratory distress [**2-6**] severe
   COPD
   24 Hour Events:
   Pt. awoke from sleep with respiratory distress, tachypnea.  Not
   responsive to albuterol/atrovent.  ABG 7.2/84/95/35. Gave IV
   solumedrol.   Placed on non-invasive ventilation and given ativan for
   anxiety.  This morning ABG: 7.38/65/91/40
   Augmentin day 4 /10
 NON-INVASIVE VENTILATION - START [**2106-9-1**] 04:30 AM
   Allergies:
   Levofloxacin
   Last dose of Antibiotics:
   Vancomycin - [**2106-8-29**] 06:39 AM
   Metronidazole - [**2106-8-29**] 08:09 AM
   Ceftriaxone - [**2106-8-29**] 10:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-8-31**] 10:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-9-1**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 89 (84 - 133) bpm
   BP: 117/60(73) {113/15(57) - 164/113(120)} mmHg
   RR: 20 (15 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.8 kg (admission): 89.8 kg
   Height: 68 Inch
                  Total In:
                                                                    630 mL
                                                                    200 mL
   PO:
                                                                    630 mL
                                                                    200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    900 mL
                                                                      0 mL
   Urine:
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 424 (424 - 424) mL
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   SpO2: 97%
   ABG: 7.38/65/91.[**Numeric Identifier 96**]//9
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   210 K/uL
   8.8 g/dL
   123 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   12 mg/dL
   99 mEq/L
   137 mEq/L
   26.7 %
   14.4 K/uL
        [image002.jpg]
                             [**2106-8-29**]  05:41 AM
                             [**2106-8-29**]  06:11 AM
                             [**2106-8-29**]  03:00 PM
                             [**2106-8-31**]  05:20 AM
                             [**2106-8-31**]  02:01 PM
                             [**2106-9-1**]  03:31 AM
                             [**2106-9-1**]  05:29 AM
   WBC
   14.0
   14.4
   Hct
   31.8
   34.3
   26.7
   Plt
   224
   210
   Cr
   0.7
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   37
   35
   40
   Glucose
   90
   123
   Other labs: PT / PTT / INR:14.0/33.7/1.2, CK / CKMB /
   Troponin-T:106/6/<0.01, ALT / AST:13/19, Alk Phos / T Bili:64/0.8,
   Amylase / Lipase:67/19, Albumin:3.3 g/dL, LDH:168 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   67 yo M with severe COPD (FEV1 24%, FEV/FVC 35%) on 4L home oxygen and
   CAD admitted with diverticulitis, transferred to the ICU for acute
   respiratory distress and shortness of breath.
   .
   # Acute respiratory distress. Patient continues to have nightly
   desaturation, ABG showed C02 retention despite tachypnea.  Prednisone
   back up to 40 yesterday.  Likely a component of COPD exacerbation,
   sleep apnea and anxiety. Little to suggest an aspiration event or PE. A
   cardiac event is unlikely as CE have been negative.
   - Increased prednisone last night, and encouraged to take nebs as
   scheduled, not PRN.
   - Continue bipap, continuous
   - Continue bactrim prophylaxis and insulin sliding scale while on
   steroids.
   - Ipratropium, tiotropium, albuterol and fluticasone-salmeterol
   inhalers.
   - Daily CXR.
   - ABGs during episodes of desaturation/respiratory distress
   - Start Azithro/Ceftriaxone
   # Diverticulitis. Symptomatically much improved. Mild disease on
   admission CT.
   - NPO, so d/c augmentin and start ceftriaxone/flagyl
   #Thrombocytopenia: New, may be spurious vs. heparin-related (HIT),
   though no other signs,
   -D/C Heparin, start pneumoboots
   -check pm thrombocytopenia
   .
   # Anemia. Baseline Hct 31, stable. Continue to trend.
   -HCT q day
   .
   # CV. History of hypertension, hypercholesterolemia and CAD.
   - Hold aspirin, calcium channel blocker and statin until taking PO.
   .
   # Chronic low back pain. No pain currently.
   - Continue home oxycodone-acetaminophen
   .
   # Cataracts bilaterally. Continue home steroid eye drops.
   .
   # GERD. Continue home pantoprazole.
   .
   # BPH. Continue home finasteride.
   .
   # Psych. Continue home sertraline.
   .
   # FEN: Regular diet.
   .
   # Prophylaxis: Pneumoboots, bowel regimen. Contact precautions for
   prior VRE and MRSA.
   .
   # Access: Peripheral IV.
   .
   # Contact: Wife [**Name (NI) 4744**] [**Telephone/Fax (1) 4745**]
   .
   # Code: Full.
   .
   # Dispo: ICU pending stabilization.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-8-31**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-09-01 10:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2106-9-1**] 04:30 AM
   pt having marked episodes of wob with sob, alb/atr given no
   improvement, abg with ^CO2 to 80's placed on NIV
   Episodes of respiratory distress associated with hypoxemia.  Responded
   to increased non-invasive ventilation pressures and increased FiO2.
   Much anxiety early this AM.  Required increased use of non-invasive
   face mask.
   Not taking PO.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Levofloxacin
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-8-29**] 10:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-8-31**] 10:09 PM
   Lorazepam (Ativan) - [**2106-9-1**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis, incontinent
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-9-1**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 103 (84 - 133) bpm
   BP: 135/68(85) {113/52(70) - 160/113(120)} mmHg
   RR: 19 (15 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.8 kg (admission): 89.8 kg
   Height: 68 Inch
                  Total In:
                                                                    630 mL
                                                                    200 mL
   PO:
                                                                    630 mL
                                                                    200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    900 mL
                                                                    350 mL
   Urine:
                                                                    900 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (350 - 424) mL
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   SpO2: 95%
   ABG: 7.38/65/92/32/9
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   132 K/uL
   116 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.5 mEq/L
   18 mg/dL
   101 mEq/L
   140 mEq/L
   27.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2106-8-29**]  05:41 AM
                             [**2106-8-29**]  06:11 AM
                             [**2106-8-29**]  03:00 PM
                             [**2106-8-31**]  05:20 AM
                             [**2106-8-31**]  02:01 PM
                             [**2106-9-1**]  03:31 AM
                             [**2106-9-1**]  04:42 AM
                             [**2106-9-1**]  05:29 AM
   WBC
   14.0
   14.4
   12.3
   Hct
   31.8
   34.3
   26.7
   27.2
   Plt
   [**Telephone/Fax (3) 4792**]
   Cr
   0.7
   0.5
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   37
   35
   40
   Glucose
   90
   123
   116
   Other labs: PT / PTT / INR:14.0/33.7/1.2, CK / CKMB /
   Troponin-T:106/6/<0.01, ALT / AST:13/19, Alk Phos / T Bili:64/0.8,
   Amylase / Lipase:67/19, Albumin:3.3 g/dL, LDH:168 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   COPD exacerbation
   RESPIRATORY DISTRESS -- attributed to COPD exacerbation.  [**Month (only) 60**] be
   underlying resp. tract infection (such as bronchiectasis, LLL
   infiltrate).  Continue to optimized Rx for COPD.  Need to re-address
   potential use of ETT.  Consider contribution of cardiac dysfunction.
   COPD -- severe, advanced.  Exacerbation --> optimize medications,
   including MDI, steroids (including converting to iv).  Check sputum.
   ANXIETY -- provide benzodiazepine prn, monitor closely.
   NUTRITIONAL SUPPORT -- NPO while receiving mask ventilation.
   DIVERTICULITIS -- continue antibiotics.
   FLUIDS -- replete.
   THROMBOCYTOPENIA -- possible drug related.  Monitor.
   HYPOPHOSPHATEMIA [**Hospital **] medical urgency;  replete iv
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-9-1**] 07:15 AM
   20 Gauge - [**2106-9-1**] 08:18 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2106-09-02 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2106-9-1**] 11:04 AM
   -Patient remained on BiPAP overnight without any issues, only transient
   desats.
   -RT increased BiPAP to 16/6 this am to increase O2 sat to 92%.
   -Platelets at 132 yesterday from 250
s  but back to 264 last PM.
   Heparin SQ restarted as was likely spurious result.
   Allergies:
   Levofloxacin
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-9-1**] 12:00 PM
   Azithromycin - [**2106-9-1**] 12:00 PM
   Metronidazole - [**2106-9-2**] 02:01 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2106-9-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-9-2**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-9-2**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 107 (89 - 109) bpm
   BP: 107/93(96) {107/52(67) - 154/93(99)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.8 kg (admission): 89.8 kg
   Height: 68 Inch
             Total In:
                                                                  1,280 mL
                                                                    410 mL
   PO:
                                                                    225 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,055 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  1,421 mL
                                                                    458 mL
   Urine:
                                                                  1,271 mL
                                                                    408 mL
   NG:
   Stool:
                                                                    150 mL
                                                                     50 mL
   Drains:
   Balance:
                                                                   -141 mL
                                                                    -48 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (350 - 360) mL
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   SpO2: 91%
   ABG: 7.37/65/52/32/8
   Ve: 7.2 L/min
   Physical Examination
   Gen- NAD with BiPAP mask on.
   CV- distant Heart sounds but RRR no M/R/G
   Pulm- decreased air movement. NO W/R/R
   Abd- soft NT/ND, BS +
   Extr- wasted musculature, no edema, WWP
   Labs / Radiology
   274 K/uL
   8.7 g/dL
   94 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   20 mg/dL
   102 mEq/L
   141 mEq/L
   28.1 %
   13.9 K/uL
        [image002.jpg] Phos 2.2 from 1.1
                             [**2106-8-29**]  06:11 AM
                             [**2106-8-29**]  03:00 PM
                             [**2106-8-31**]  05:20 AM
                             [**2106-8-31**]  02:01 PM
                             [**2106-9-1**]  03:31 AM
                             [**2106-9-1**]  04:42 AM
                             [**2106-9-1**]  05:29 AM
                             [**2106-9-1**]  10:08 AM
                             [**2106-9-1**]  05:01 PM
                             [**2106-9-2**]  03:58 AM
   WBC
   14.4
   12.3
   12.3
   13.9
   Hct
   34.3
   26.7
   27.2
   28.1
   28.1
   Plt
   [**Telephone/Fax (3) 4810**]74
   Cr
   0.5
   0.6
   0.5
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   37
   35
   40
   39
   Glucose
   123
   116
   122
   94
   Other labs: PT / PTT / INR:14.0/33.7/1.2, CK / CKMB /
   Troponin-T:106/6/<0.01, ALT / AST:13/19, Alk Phos / T Bili:64/0.8,
   Amylase / Lipase:67/19, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL,
   LDH:168 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   67 yo M with severe COPD (FEV1 24%, FEV/FVC 35%) on 4L home oxygen and
   CAD admitted with diverticulitis, transferred to the ICU for acute
   respiratory distress and shortness of breath.
   # Acute respiratory distress. Patient continues to have nightly
   desaturation, most likely [**2-6**] COPD exacerbation, sleep apnea and
   anxiety. Little to suggest an aspiration event or PE. A cardiac event
   is unlikely as CE have been negative.
   - Continue IV solumedrol
   - Continuous bipap
 can come off for brief periods of time (meds/
   meals)
   - Continue bactrim prophylaxis and insulin sliding scale while on
   steroids.
   - Ipratropium, tiotropium, albuterol and fluticasone-salmeterol
   inhalers.
   - Daily CXR.
   - ABGs during episodes of desaturation/respiratory distress
   - Continue Azithro/Ceftriaxone
   # Diverticulitis. Symptomatically much improved. Mild disease on
   admission CT.
   - Tolerating regular diet well, Continue ceftriaxone/flagyl
   #Thrombocytopenia: Resolved
 spurious result
   .
   # Anemia. Baseline Hct 31, stable. Continue to trend.
   -HCT q day
   .
   # CV. History of hypertension, hypercholesterolemia and CAD.
   - Continue aspirin, calcium channel blocker and statin.
   .
   # Chronic low back pain. No pain currently.
   - Continue home oxycodone-acetaminophen
   .
   # Cataracts bilaterally. Continue home steroid eye drops.
   .
   # GERD. Continue home pantoprazole.
   .
   # BPH. Continue home finasteride.
   .
   # Psych. Continue home sertraline.
   .
   # FEN: Regular diet.
   .
   # Prophylaxis: Heparin SQ, bowel regimen. Contact precautions for prior
   VRE and MRSA.
   .
   # Access: Peripheral IV.
   .
   # Contact: Wife [**Name (NI) 4744**] [**Telephone/Fax (1) 4745**]
   .
   # Code: Full, will discuss further with patient.
   .
   # Dispo: ICU for now, if stablilizes can call out to floor tonight or
   tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-9-1**] 07:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-09-02 09:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2106-9-1**] 11:04 AM
   Required and tolerated BiPAP throughout last 24-hrs.  Slept most of day
   yesterday, more awake since midnight, and very awake and garalous this
   AM.
   Denies increased dyspnea.   Off BiPAP this AM.
   Describes some mild right knee pain (posterior) this AM.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Levofloxacin
   Last dose of Antibiotics:
   Azithromycin - [**2106-9-1**] 12:00 PM
   Ceftriaxone - [**2106-9-1**] 12:00 PM
   Metronidazole - [**2106-9-2**] 02:01 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2106-9-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-9-2**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-6**] Minimal
   Pain location: right knee
   Flowsheet Data as of  [**2106-9-2**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 96 (90 - 109) bpm
   BP: 127/63(77) {107/53(67) - 154/93(99)} mmHg
   RR: 19 (17 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.8 kg (admission): 89.8 kg
   Height: 68 Inch
             Total In:
                                                                  1,280 mL
                                                                    434 mL
   PO:
                                                                    225 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,055 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                  1,421 mL
                                                                    523 mL
   Urine:
                                                                  1,271 mL
                                                                    473 mL
   NG:
   Stool:
                                                                    150 mL
                                                                     50 mL
   Drains:
   Balance:
                                                                   -141 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.37/65/52/32/8
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   distant breath sounds;
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   274 K/uL
   94 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   20 mg/dL
   102 mEq/L
   141 mEq/L
   28.1 %
   13.9 K/uL
        [image002.jpg]
                             [**2106-8-29**]  06:11 AM
                             [**2106-8-29**]  03:00 PM
                             [**2106-8-31**]  05:20 AM
                             [**2106-8-31**]  02:01 PM
                             [**2106-9-1**]  03:31 AM
                             [**2106-9-1**]  04:42 AM
                             [**2106-9-1**]  05:29 AM
                             [**2106-9-1**]  10:08 AM
                             [**2106-9-1**]  05:01 PM
                             [**2106-9-2**]  03:58 AM
   WBC
   14.4
   12.3
   12.3
   13.9
   Hct
   34.3
   26.7
   27.2
   28.1
   28.1
   Plt
   [**Telephone/Fax (3) 4810**]74
   Cr
   0.5
   0.6
   0.5
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   37
   35
   40
   39
   Glucose
   123
   116
   122
   94
   Other labs: PT / PTT / INR:14.0/33.7/1.2, CK / CKMB /
   Troponin-T:106/6/<0.01, ALT / AST:13/19, Alk Phos / T Bili:64/0.8,
   Amylase / Lipase:67/19, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL,
   LDH:168 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   COPD exacerbation; diverticulitis.
   RESPIRATORY DISTRESS
 prodominately COPD.  Improved.  Continue
   non-invassive ventilation as needed.
   COPD
 Responding to current mangement.  Continue meds.  Slow taper
   steroids.
   DIVERTICULITIS
 good clinical response.  Continue antimicrobials.
   FLUIDS
 euvolemic.  Monitor I/O.  Maintain balance.
   NUTRITIONAL SUPPORT
 PO.
   ANEMIA
 chronic.  Monitor Hct daily.
   RIGHT KNEE PAIN
 chronic.  Symptomatic relief.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-9-1**] 07:15 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2106-09-03 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Continuous BiPAP overnight without issues.  Patient kept 3L NC on to
   keep sats at 95.  At his baseline for BiPAP and O2 use.
   Dr. [**Last Name (STitle) 2045**] came by and discussed code status with patient.  He
   agreed to be DNR but would want brief intubation as he has tolerated
   this in the past and been able to wean off vent successfully.
   Sputum, C diff, and blood cultures negative to date.
   Allergies:
   Levofloxacin
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-9-2**] 11:45 AM
   Azithromycin - [**2106-9-2**] 12:15 PM
   Metronidazole - [**2106-9-3**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-9-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-9-3**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.3
   HR: 92 (80 - 100) bpm
   BP: 144/83(98) {111/17(52) - 151/83(99)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.8 kg (admission): 89.8 kg
   Height: 68 Inch
             Total In:
                                                                  2,320 mL
                                                                    173 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  1,240 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    690 mL
   Urine:
                                                                  1,070 mL
                                                                    690 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                  1,200 mL
                                                                   -517 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   Gen- NAD breathing comfortably on NC.
   CV- distant Heart sounds but RRR no M/R/G
   Pulm- decreased air movement. NO W/R/R
   Abd- soft NT/ND, BS +
   Extr- wasted musculature, no edema, WWP
   Labs / Radiology
   248 K/uL
   9.0 g/dL
   85 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.5 mEq/L
   19 mg/dL
   106 mEq/L
   142 mEq/L
   28.0 %
   12.7 K/uL
        [image002.jpg]
                             [**2106-8-29**]  03:00 PM
                             [**2106-8-31**]  05:20 AM
                             [**2106-8-31**]  02:01 PM
                             [**2106-9-1**]  03:31 AM
                             [**2106-9-1**]  04:42 AM
                             [**2106-9-1**]  05:29 AM
                             [**2106-9-1**]  10:08 AM
                             [**2106-9-1**]  05:01 PM
                             [**2106-9-2**]  03:58 AM
                             [**2106-9-3**]  03:56 AM
   WBC
   14.4
   12.3
   12.3
   13.9
   12.7
   Hct
   34.3
   26.7
   27.2
   28.1
   28.1
   28.0
   Plt
   [**Telephone/Fax (3) 4810**]74
   248
   Cr
   0.5
   0.6
   0.5
   0.6
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   35
   40
   39
   Glucose
   123
   116
   122
   94
   85
   Other labs: PT / PTT / INR:14.0/33.7/1.2, CK / CKMB /
   Troponin-T:106/6/<0.01, ALT / AST:13/19, Alk Phos / T Bili:64/0.8,
   Amylase / Lipase:67/19, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL,
   LDH:168 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   67 yo M with severe COPD (FEV1 24%, FEV/FVC 35%) on 4L home oxygen and
   CAD admitted with diverticulitis, transferred to the ICU for acute
   respiratory distress and shortness of breath.
   # Acute respiratory distress/ COPD exacerbation. Patient continues to
   have nightly desaturation, most likely [**2-6**] COPD exacerbation, sleep
   apnea and anxiety. Little to suggest an aspiration event or PE. A
   cardiac event is unlikely as CE have been negative.
   - Switch IV solumedrol to PO Prednisone - would advocate for long taper
   (~20 days) to a maintanence dose of 20 mg prednisone.
   - Continuous bipap
 can come off for brief periods of time (meds/
   meals)
   - Continue bactrim prophylaxis and insulin sliding scale while on
   steroids.
   - Ipratropium, tiotropium, albuterol and fluticasone-salmeterol
   inhalers.
   - Continue Azithro for 5 day course (currently day 3) for COPD
   Exacerbation
   # Diverticulitis. Symptomatically much improved. Mild disease on
   admission CT.
   -Tolerating regular diet well,
   -Switch ceftriaxone/flagyl to augmentin (currently day 6 of abx
   treatment).  Continue for 10 day course
   # Anemia. Baseline Hct 31, stable. Continue to trend.
   -HCT q day
   .
   # CV. History of hypertension, hypercholesterolemia and CAD.
   - Continue aspirin, calcium channel blocker and statin.
   .
   # Chronic low back pain. No pain currently.
   - Continue home oxycodone-acetaminophen
   .
   # Cataracts bilaterally. Continue home steroid eye drops.
   .
   # GERD. Continue home pantoprazole.
   .
   #Thrombocytopenia: Resolved
 spurious result
   .
   # BPH. Continue home finasteride.
   .
   # Psych. Continue home sertraline.
   .
   # FEN: Regular diet.
   .
   # Prophylaxis: Heparin SQ, bowel regimen. Contact precautions for prior
   VRE and MRSA.
   .
   # Access: Peripheral IV, may need changed today, but decreased need for
   IV access.
   .
   # Contact: Wife [**Name (NI) 4744**] [**Telephone/Fax (1) 4745**]
   .
   # Code: DNR, willing to be intubated for short period of time.
   .
   # Dispo: call out to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-9-3**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-09-03 10:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Used non-invasive ventilation overnight.
   Feels improved this AM.  Back to usual baseline breathing.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Levofloxacin
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-9-2**] 11:45 AM
   Azithromycin - [**2106-9-2**] 12:15 PM
   Metronidazole - [**2106-9-3**] 09:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-9-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-9-3**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 104 (80 - 105) bpm
   BP: 132/66(84) {114/17(52) - 155/83(99)} mmHg
   RR: 19 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.8 kg (admission): 89.8 kg
   Height: 68 Inch
             Total In:
                                                                  2,320 mL
                                                                    419 mL
   PO:
                                                                  1,080 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    861 mL
   Urine:
                                                                  1,070 mL
                                                                    861 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                  1,200 mL
                                                                   -442 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, date, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   248 K/uL
   85 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.5 mEq/L
   19 mg/dL
   106 mEq/L
   142 mEq/L
   28.0 %
   12.7 K/uL
        [image002.jpg]
                             [**2106-8-29**]  03:00 PM
                             [**2106-8-31**]  05:20 AM
                             [**2106-8-31**]  02:01 PM
                             [**2106-9-1**]  03:31 AM
                             [**2106-9-1**]  04:42 AM
                             [**2106-9-1**]  05:29 AM
                             [**2106-9-1**]  10:08 AM
                             [**2106-9-1**]  05:01 PM
                             [**2106-9-2**]  03:58 AM
                             [**2106-9-3**]  03:56 AM
   WBC
   14.4
   12.3
   12.3
   13.9
   12.7
   Hct
   34.3
   26.7
   27.2
   28.1
   28.1
   28.0
   Plt
   [**Telephone/Fax (3) 4810**]74
   248
   Cr
   0.5
   0.6
   0.5
   0.6
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   35
   40
   39
   Glucose
   123
   116
   122
   94
   85
   Other labs: PT / PTT / INR:14.0/33.7/1.2, CK / CKMB /
   Troponin-T:106/6/<0.01, ALT / AST:13/19, Alk Phos / T Bili:64/0.8,
   Amylase / Lipase:67/19, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL,
   LDH:168 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   COPD exacerbation.
   COPD -- Good response to current medication regimen.  Continue
   nebulizers; slow steroid taper.  Use mask ventilation at night and as
   needed.
   DIVERTICULITIS -- Continue antimicribials for 10 day course.
   NUTRITIONAL SUPPORT -- PO.  Encourage.
   RIGHT KNEE PAIN -- chronic, improved currently.
   FLUIDS -- euvolemic.  Montor I/O, maintain balance.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2106-9-3**] 09:20 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :  Transfer to floor
   Total time spent: 45 minutes